### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/FixedPoint): small clean-up

### PR DESCRIPTION
**Pull request by vihdzp**
This PR does the following:
- fix the names `lt_nfpFamily` → `lt_nfpFamily_iff` and `lt_nfp` → `lt_nfp_iff`, matching `lt_iSup_iff`.
- remove some redundant arguments

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/FixedPoint.lean [hunk 1]
```diff
@@ -64,9 +63,12 @@ theorem foldr_le_nfpFamily [Small.{u} ι] (f : ι → Ordinal.{u} → Ordinal.{u
 theorem le_nfpFamily [Small.{u} ι] (f : ι → Ordinal.{u} → Ordinal.{u}) (a) : a ≤ nfpFamily f a :=
   foldr_le_nfpFamily f a []
 
-theorem lt_nfpFamily [Small.{u} ι] {a b} : a < nfpFamily f b ↔ ∃ l, a < List.foldr f b l :=
+theorem lt_nfpFamily_iff [Small.{u} ι] {a b} : a < nfpFamily f b ↔ ∃ l, a < List.foldr f b l :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/FixedPoint.lean:66]: I don't like this rename: `_iff` should be omitted if no ambiguity arises

File: Mathlib/SetTheory/Ordinal/FixedPoint.lean [hunk 2]
```diff
@@ -470,10 +470,13 @@ theorem iterate_le_nfp (f a n) : f^[n] a ≤ nfp f a := by
 theorem le_nfp (f a) : a ≤ nfp f a :=
   iterate_le_nfp f a 0
 
-theorem lt_nfp {a b} : a < nfp f b ↔ ∃ n, a < f^[n] b := by
+theorem lt_nfp_iff {a b} : a < nfp f b ↔ ∃ n, a < f^[n] b := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/FixedPoint.lean:473]: Same here

File: Mathlib/SetTheory/Ordinal/FixedPoint.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean:66]: I do think this is somewhat ambiguous, considering that `le_nfp` is a different statement.

Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean:66]: Okay fair

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by j-loreaux** [comment]
Thanks bors merge

**Comment by vihdzp** [comment]
@j-loreaux (I don't think the `bors merge` went through)

**Comment by riccardobrasca** [comment]
It should be on a new line.

bors merge
